US06525074B2
Step E: Preparation of 4-(1-Amino-1-pyridin-3-yl-ethyl)-2-fluoro-benzonitrile bis hydrochloride
N-[1-(4-cyano-3-fluoro-phenyl)-1-(3-pyridyl)-ethyl]-2-methylpropanesulfinamide (0.080 g, 0.232 mmol) was dissolved in MeOH (5 mL) and treated with 4M HCl solution in dioxane (0.58 mL, 2.32 mmol). The solution was stirred for 4 h, concentrated to dryness, and azeotroped with CH2Cl2 and Et2O to give the title compound.

reactant | N-[1-(4-cyano-3-fluoro-phenyl)-1-(3-pyridyl)-ethyl]-2-methylpropanesulfinamide | 0.232 mmol, 0.080 g | C(#N)C1=C(C=C(C=C1)C(C)(C=1C=NC=CC1)NS(=O)CC(C)C)F | C18H20FN3OS
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 2.32 mmol, 0.58 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 5 mL | CO | CH4O
product | 4-(1-Amino-1-pyridin-3-yl-ethyl)-2-fluoro-benzonitrile bis hydrochloride | Cl.Cl.NC(C)(C=1C=NC=CC1)C1=CC(=C(C#N)C=C1)F | InChI=1S/C14H12FN3.2ClH/c1-14(17,12-3-2-6-18-9-12)11-5-4-10(8-16)13(15)7-11;;/h2-7,9H,17H2,1H3;2*1H
